US05683997
The reaction of 5.4 g of 3-amino-1-(p-methylbenzyl)-2,3,4,5-tetrahydro-benzazepin-2-one with 8.84 g of (R)-alpha-[[(4-nitrophenyl)sulfonyl]oxy]-4-cyclohexylbutyric acid ethyl ester and 2.6 ml of N-methylmorpholine yields the two diastereoisomeric esters 3-(S)-[(1-(S)-ethoxycarbonyl-3-cyclohexyl-propyl)-amino]-1-(p-methylbenzyl)-2,3,4,5-tetrahydro-benzazepin-2-one and 3-(R)-[(1-(S)-ethoxycarbonyl-3-cyclohexyl-propyl)-amino]-1-(p-methylbenzyl)-2,3,4,5-tetrahydro-benzazepin-2-one, Rf values (eluant ethyl acetate/hexane 1:2) non-polar component 0.58, polar component 0.39.

reactant | 3-amino-1-(p-methylbenzyl)-2,3,4,5-tetrahydro-benzazepin-2-one | 5.4 g | NC1C(N(C2=C(CC1)C=CC=C2)CC2=CC=C(C=C2)C)=O | C18H20N2O
reactant | (R)-alpha-[[(4-nitrophenyl)sulfonyl]oxy]-4-cyclohexylbutyric acid ethyl ester | 8.84 g | C(C)OC([C@@H](CCC1CCCCC1)OS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C18H25NO7S
reactant | N-methylmorpholine | 2.6 ml | CN1CCOCC1 | C5H11NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-(R)-[(1-(S)-ethoxycarbonyl-3-cyclohexyl-propyl)-amino]-1-(p-methylbenzyl)-2,3,4,5-tetrahydro-benzazepin-2-one | C(C)OC(=O)[C@H](CCC1CCCCC1)N[C@H]1C(N(C2=C(CC1)C=CC=C2)CC2=CC=C(C=C2)C)=O | C30H40N2O3
